* source ECE2200_M1
R_R1         0 N00208  150 TC=0,0 
M_M1         VO VIN N00208 N00208 Mbreakn           
R_R2         VO VDD  470 TC=0,0 
V_V2         VDD 0 DC 15V  
V_V3         VIN 0  
+SIN 5V 5V 1K 0 0 0
.PARAM  ving=1
