* C:\Users\Antony Yung\Documents\workspace\ECE2100L\Lab7\Draft1.asc
V1 N001 0 AC 6 0
Ra N002 N001 43
C1 N002 0 10p
C2 N003 N002 1000µ
C4 Vth N003 470µ
Rb N003 N004 51
C3 N004 0 20p
.ac list 60
.backanno
.end
