* source ECE2200L_LAB3
R_R1         N00311 VO  10k TC=0,0 
V_V2         N00303 0 5Vdc
V_V3         0 N00307 5Vdc
V_V4         N00311 0 DC 0Vdc AC {vin*1Vac} 
D_D5         N00307 VO D1N4001 
D_D6         VO N00303 D1N4001 
.PARAM  vin=1
