* source ECE2200L_LAB8
C_C1         N00326 N00340  0.1u  
R_RD         N00326 N00347  3.9k TC=0,0 
R_RL         0 N00340  100k TC=0,0 
V_V2         N00347 0 22Vdc
V_V3         N00902 0  
+SIN 0V 100mV 1k 0 0 0
C_C2         N00482 0  0.1u  
R_RS         0 N00482  2.2k TC=0,0 
R_R2         0 N00453  100k TC=0,0 
R_R1         N00453 N00347  220k TC=0,0 
C_C3         N00453 N00902  0.1u  
X_M1         N00326 N00453 N00482 BSP110/PLP
