* source ECE2200L_LAB9_PSPICE_B
R_R1         VOUT N00325  10k TC=0,0 
V_V1         VIN 0 0Vdc
V_V2         N00325 0 5Vdc
Q_Q1         VOUT N004130 0 QMMBT2222A/PLP 
R_R2         VIN N004130  100k TC=0,0 
