* C:\Users\Antony Yung\workspace\CPP_Schoolworks\ECE2101L\ECE2101L_Lab10\ECE2101L_Lab09_Schematics\ECE2101L_Lab09_B1.asc
Vs s 0 AC 4.94974746831 0
R1 s 2 8.2
C1 2 0 10p
R2 2 P001 51
L1 P001 0 0.4
C2 P002 0 0.1µ
R3 P001 P002 130
.ac list 60
.print V(2) i(R1)
.backanno
.end
