* D:\Documents\workspace\CPP_Schoolworks\ECE2101L\ECE2101L_Lab11\ECE2101L_Lab11_Schematics\ECE2101L_Lab11_B1.asc
Vin N002 0 AC 1.5 0
XU1 N001 0 out opamp Aol=100K GBW=10Meg
R1 N002 N001 3.3k
R2 N001 out 18k
C2 N001 out 0.33µ
R3 out 0 1.3k
.lib opamp.sub
.ac list 640
.print v(out)
.backanno
.end
